US09447090B2
To a solution of 700 mg of tert-butyl[(1R,2R)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-1-phenylpropyl]carbamate in 35 ml of THF was added 1.2 g of triphenylphosphine, 766 mg of 4-nitrobenzoic acid, and 2.4 ml of a 1.9 M diisopropyl azodicarboxylate/toluene solution under ice-cooling, followed by stirring at room temperature for 5 hours. To the reaction mixture were added water and ethyl acetate to carry out a layer separation operation. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 638 mg of (6S,7R)-2,2,3,3,11,11-hexamethyl-9-oxo-7-phenyl-4,10-dioxa-8-aza-3-siladodecan-6-yl 4-nitrobenzoate.

reactant | tert-butyl[(1R,2R)-3-{[tert-butyl(dimethyl)silyl]oxy}-2-hydroxy-1-phenylpropyl]carbamate | 700 mg | C(C)(C)(C)OC(N[C@@H]([C@H](CO[Si](C)(C)C(C)(C)C)O)C1=CC=CC=C1)=O | C20H35NO4Si
reactant | triphenylphosphine | 1.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 766 mg | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diisopropyl azodicarboxylate toluene | 1.9 M | N(=NC(=O)OC(C)C)C(=O)OC(C)C.C1(=CC=CC=C1)C
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | (6S,7R)-2,2,3,3,11,11-hexamethyl-9-oxo-7-phenyl-4,10-dioxa-8-aza-3-siladodecan-6-yl 4-nitrobenzoate | 638 mg | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H](CO[Si](C(C)(C)C)(C)C)[C@H](NC(OC(C)(C)C)=O)C2=CC=CC=C2)C=C1 | C27H38N2O7Si
